US06653471B2
A mixture of 4-methyl-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid hydrobromide (25 mg), aniline (12 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (23 mg), 1,4-dioxane (1.5 mL), and water (1.5 mL) is stirred at room temperature for 4 days. 0.5N sodium hydroxide solution (3 mL) is added and the mixture is extracted with dichloromethane (3×50 mL). The combined organic layers are washed with brine (1×10 mL), dried over magnesium sulfate and concentrated in vacuo. The residue is purified by preparative thin layer chromatography on silica gel, eluting with 5% methanol in dichloromethane, to give 4-methyl-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid phenyl amide, cream solid, 7 mg: LRMS calcd 292.34, found [M+H] 293.2.

reactant | 4-methyl-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid hydrobromide | 25 mg | Br.CC1N2C=CN=C2C=2C(=CNC2C1)C(=O)O
reactant | aniline | 12 mg | NC1=CC=CC=C1 | C6H7N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 23 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydroxide | 0.5N, 3 mL | [OH-].[Na+]
solvent | water | 1.5 mL | O | H2O
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-methyl-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid phenyl amide | C1(=CC=CC=C1)NC(=O)C1=CNC=2CC(N3C=CN=C3C12)C | C17H16N4O
